US06680318B2
(i) Preparation of 2,2-Dimethyl-2,3-dihydro-1-benzofuran-7-yl Trifluoromethanesulfonate (Compound 1)
2,2-dimethyl-2,3-dihydro-1-benzofuran-7-ol (19 g, 0.11 mol) and pyridine (18 mL, 0.23 mol) was dissolved in CH2Cl2 at 0° C. Triflic anhydride (23 mL, 0.14 mol) was added dropwise. After strirring 1 h at 25° C. the mixture was diluted with CH2Cl2 and washed with HCl (aq.), dried (Mg SO4) and evaporated in vacuo.

reactant | 2,2-dimethyl-2,3-dihydro-1-benzofuran-7-ol | 0.11 mol, 19 g | CC1(OC2=C(C1)C=CC=C2O)C | C10H12O2
reactant | pyridine | 0.23 mol, 18 mL | N1=CC=CC=C1 | C5H5N
reactant | Triflic anhydride | 0.14 mol, 23 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,2-Dimethyl-2,3-dihydro-1-benzofuran-7-yl Trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=CC=2CC(OC21)(C)C)(F)F | C11H11F3O4S
